US07781479B2
N-[2-Bromo-5-(trifluoromethyl)phenyl]methanesulfonamide
To a solution of 2-bromo-5-trifluoromethylaniline (3.18 g, 13.25 mmol) in pyridine (18 ml) was added methanesulfonyl chloride (1.03 ml, 13.25 mmol) and the mixture was stirred for 6 hours at room temperature. The solvent was removed in vacuo and the residue was diluted with chloroform. The organic layer was washed with water, 1N hydrochloric acid, a saturated sodium hydrogen carbonate solution and saturated brine and dried over anhydrous sodium sulfate. The solvent was removed in vacuo and the residue was purified by recrystallization to give the subject compound (2.18 g, 52%).

reactant | 2-bromo-5-trifluoromethylaniline | 13.25 mmol, 3.18 g | BrC1=C(N)C=C(C=C1)C(F)(F)F | C7H5BrF3N
reactant | methanesulfonyl chloride | 13.25 mmol, 1.03 ml | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 18 ml | N1=CC=CC=C1 | C5H5N
product | N-[2-Bromo-5-(trifluoromethyl)phenyl]methanesulfonamide | 2.18 g, 52% | BrC1=C(C=C(C=C1)C(F)(F)F)NS(=O)(=O)C | C8H7BrF3NO2S
